US07071177B2
A solution of 1 M BH3.THF/THF (7.0 mL, 7.0 mmol) was added to a stirring solution of 4-[(2-methylthio-ethyl)-(4-fluoro-benzoyl)-amino]-N-acetyl-benzenesulfonamide (0.29 g, 0.69 mmol) in THF (8 mL). After 18 h, the excess BH3 was quenched by addition of 0.1 M HCl; followed by partitioning the mixture between CH2Cl2 and NaHCO3. The organic layer was dried (Na2SO4), filtered, evaporated in vacuo, and the residue was purified by MPLC (CH2Cl2 to 90:10 CH2Cl2/EtOAc) to afford 0.16 g (59%) of 4-[(2-methylthio-ethyl)-(4-fluoro-benzyl)-amino]-N-ethyl-benzenesulfonamide as a colorless glass; 1H NMR δ 1.09 (t, 3H, J=7.5), 2.16 (s, 3H), 2.74 (m, 2H), 2.96 (m, 2H), 3.67 (m, 2H), 4.37 (t, 1H, J=6.0), 4.62 (s, 2H), 6.69 (d, 2H, J=9.0), 7.04 (dd, 2H, J=4.5, 7.5), 7.15 (dd, 2H, J=6.0, 9.0), 7.66 (d, 2H, J=7.5).

reactant | BH3.THF THF | 7.0 mmol, 1 M, 7.0 mL | B.C1CCOC1.C1CCOC1
reactant | 4-[(2-methylthio-ethyl)-(4-fluoro-benzoyl)-amino]-N-acetyl-benzenesulfonamide | 0.69 mmol, 0.29 g | CSCCN(C1=CC=C(C=C1)S(=O)(=O)NC(C)=O)C(C1=CC=C(C=C1)F)=O | C18H19FN2O4S2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-[(2-methylthio-ethyl)-(4-fluoro-benzyl)-amino]-N-ethyl-benzenesulfonamide | 0.16 g, 59% | CSCCN(C1=CC=C(C=C1)S(=O)(=O)NCC)CC1=CC=C(C=C1)F | C18H23FN2O2S2
